US05661108
A stirred mixture of 1.5 grams (0.005 mole) of 1-(2-propyn-1-yl)-2-trifluoromethyl-5-fluoro-6-nitrobenzimidazole, 1.0 gram (0.018 mole) of iron powder, and 10 mL of ethyl acetate in 35 mL of acetic acid was heated at 60° C. for two hours. The reaction mixture was then poured into water, and the mixture was extracted thoroughly with portions of ethyl acetate. The combined extracts were washed with aqueous solutions saturated with sodium bicarbonate and sodium chloride. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil, which was triturated with water, and the resultant solid collected by filtration. The solid was dried, yielding 1.3 grams of 1-(2-propyn-1-yl)-2-trifluoromethyl-5-fluoro-6-aminobenzimidazole. The NMR spectrum was consistent with the proposed structure.

reactant | 1-(2-propyn-1-yl)-2-trifluoromethyl-5-fluoro-6-nitrobenzimidazole | 0.005 mole, 1.5 grams | C(C#C)N1C(=NC2=C1C=C(C(=C2)F)[N+](=O)[O-])C(F)(F)F | C11H5F4N3O2
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.018 mole, 1.0 gram | [Fe] | Fe
product | 1-(2-propyn-1-yl)-2-trifluoromethyl-5-fluoro-6-aminobenzimidazole | 1.3 grams | C(C#C)N1C(=NC2=C1C=C(C(=C2)F)N)C(F)(F)F | C11H7F4N3
